US05763437
A mixture of N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-[3-(ethoxycarbonylmethoxy)phenyl]urea and 0.1N NaOH in tetrahydrofuran was stirred at room temperature for 6 hours. 1N HCl was added to the reaction mixture. Ethyl acetate and water were added to the reaction mixture, and the organic layer was removed, washed with water and brine, and dried over magnesium sulfate. The solution was evaporated to dryness and washed with isopropyl ether and diethyl ether to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-carboxymethoxyphenyl)urea.

reactant | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-[3-(ethoxycarbonylmethoxy)phenyl]urea | C12CN(CC(CC1)CC2)N2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)(NC(=O)NC1=CC(=CC=C1)OCC(=O)OCC)C=C=O)=O | C36H36FN5O6
reactant | NaOH | 0.1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-carboxymethoxyphenyl)urea | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)OCC(=O)O)=O | C34H34FN5O6
